US09163027B2
2-({5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}-sulfanyl)-N-(4-methoxyphenyl)acetamide
A mixture of 2-({5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}sulfanyl)acetic acid (0.10 g, 0.42 mmol), p-anisidine (52 mg, 0.42 mmol), N,N-dicyclohexylcarbodiimide (87 mg, 0.42 mmol), and N,N-dimethylformamide (2 mL) was added to a 20 mL scintillation vial with a magnetic stirring bar. The mixture was allowed to stir at ambient temperature for 36 h. A white precipitate was removed by filtration and rinsed with N,N-dimethylformamide (0.5 mL) followed by water (1 mL). A precipitate formed in the liquid layer upon standing at ambient temperature for 12 h and was isolated by filtration. The crude precipitate was crystallized from warn ethanol (12 mL). The crystallized material was isolated by filtration, rinsed with ethanol, and allowed to dry. The title compound was obtained as an off-white solid (144 mg, 38% yield). 1H NMR (DMSO-d6, 400 MHz) δ ppm: 10.21 (s, 1H), 7.49 (d, 2H), 7.11 (s, 1H), 6.88 (d, 2H), 4.19 (s, 2H), 3.71 (s, 3H), 2.66 (s, 3H), 2.54 (s, 3H).

reactant | 2-({5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}sulfanyl)acetic acid | 0.42 mmol, 0.10 g | CC1=NC=2N(C(=C1)C)N=C(N2)SCC(=O)O | C9H10N4O2S
reactant | p-anisidine | 0.42 mmol, 52 mg | COC1=CC=C(C=C1)N | C7H9NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-({5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}-sulfanyl)-N-(4-methoxyphenyl)acetamide | CC1=NC=2N(C(=C1)C)N=C(N2)SCC(=O)NC2=CC=C(C=C2)OC | C16H17N5O2S
